US04064247
5-Isothiocyanatoisoquinoline (0.93 g.) is added to a solution of (S)-3-hydroxymethyl-1,2,3,4-tetrahydro isoquinoline (0.82 g.) in ethanol (10 cc.). After 15 hours at a temperature of about 20° C., the crystals formed are filtered off, washed with ethanol and then dried at 60° C. under reduced pressure (0.1 mm. Hg). (S)-3-Hydroxymethyl-N-(isoquinol-5-yl)-1,2,3,4-tetrahydroisoquinoline-2-carbothioamide (1.3 g. ), melting at 190° C., is thus obtained.

reactant | 5-Isothiocyanatoisoquinoline | 0.93 g | N(=C=S)C1=C2C=CN=CC2=CC=C1 | C10H6N2S
reactant | (S)-3-hydroxymethyl-1,2,3,4-tetrahydro isoquinoline | 0.82 g | OC[C@H]1NCC2=CC=CC=C2C1 | C10H13NO
solvent | ethanol | 10 cc | C(C)O | C2H6O
product | (S)-3-Hydroxymethyl-N-(isoquinol-5-yl)-1,2,3,4-tetrahydroisoquinoline-2-carbothioamide | 1.3 g | OC[C@H]1N(CC2=CC=CC=C2C1)C(NC1=C2C=CN=CC2=CC=C1)=S | C20H19N3OS
